US04985444
A mixture of 4-oxo-4-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)butyric acid (1.71 g), hydrazine monohydrate (1.46 g) and ethanol (17 ml) was heated under reflux for 1 hour. Ethanol was evaporated in vacuo. Water (20 ml) was added to the residue, acidified with 5% hydrochloric acid and extracted with chloroform (25 ml×3). The combined extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol to give crystals of 3-(3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (1.19 g).

reactant | 4-oxo-4-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)butyric acid | 1.71 g | O=C(CCC(=O)O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H14N2O3
reactant | hydrazine monohydrate | 1.46 g | O.NN
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | 3-(3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 1.19 g | O=C1NN=C(CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H14N4O
